US08470859B2
5-chloro-2-imino-1-[3-(trifluoromethyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrochloride
According to the method of Example 160, 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide was reacted with 1-[3-(trifluoromethyl)phenyl]methanamine to give the title compound.

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-[3-(trifluoromethyl)phenyl]methanamine | FC(C=1C=C(C=CC1)CN)(F)F | C8H8F3N
product | 5-chloro-2-imino-1-[3-(trifluoromethyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrochloride | Cl.ClC=1C=C(C(N(C1)CC1=CC(=CC=C1)C(F)(F)F)=N)C(=O)N | InChI=1S/C14H11ClF3N3O.ClH/c15-10-5-11(13(20)22)12(19)21(7-10)6-8-2-1-3-9(4-8)14(16,17)18;/h1-5,7,19H,6H2,(H2,20,22);1H
